US07442702B2
3-(3-{[(4-Pyrazin-2-yl-benzyl)-(thiazole-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step A was prepared following the method described in Step A of Example 1 from 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11a, and thiazole-2-sulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.98 (s, 1H), 8.61 (s, 1H), 8.50 (s, 1H), 7.96 (d, 1H), 7.88 (d, 2H), 7.60 (d, 1H), 7.26 (d, 2H), 7.13 (m, 1H), 7.04 (m, 1H), 6.95 (m, 1H), 6.91 (s, 1H), 4.54 (s, 2H), 4.48 (s, 2H), 3.64 (s, 3H), 2.81 (t, 2H), 2.52 (t, 2H); MS 509 (M+1).

reactant | 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C22H23N3O2
reactant | thiazole-2-sulfonyl chloride | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(4-Pyrazin-2-yl-benzyl)-(thiazole-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C=1SC=CN1)CC1=CC=C(C=C1)C1=NC=CN=C1)=O | C25H24N4O4S2
